US05560749
A. Preparation of N-methyl-N-octanoylacrylamide
To 4.1 g (0.0252 mole) of N-methyl-N-trimethylsilylacrylamide was added dropwise 3.66 g of octanoyl chloride at 0° C. After the addition was completed, the mixture was allowed to stir for 45 minutes at room temperature. Complete conversion was indicated by IR after 2 hours and 45 minutes.

reactant | N-methyl-N-trimethylsilylacrylamide | 0.0252 mole, 4.1 g | CN(C(C=C)=O)[Si](C)(C)C | C7H15NOSi
reactant | octanoyl chloride | 3.66 g | C(CCCCCCC)(=O)Cl | C8H15ClO
product | N-methyl-N-octanoylacrylamide | CN(C(C=C)=O)C(CCCCCCC)=O | C12H21NO2
